US04200628
To a solution of 1.002 g (6.9 mmoles) of 2-hydroxy-2-(pyrrolidin-2-yl)acetic acid in a solution of 550 mg (2 equivalents) of sodium hydroxide in 10 ml of water is added 1.18 ml (1.2 equivalents) of benzyloxycarbonyl chloride, and the mixture is stirred at room temperature for 1.5 hours, washed twice with ether, adjusted to pH 2 with 10% hydrochloric acid, and then extracted thrice with methylene chloride. The extract is washed with water, dried over sodium sulfate and evaporated under reduced pressure to yield 1.288 g of α-hydroxy-α-(1-benzyloxycarbonylpyrrolidin-2-yl)acetic acid in 70.3% yield.

reactant | 2-hydroxy-2-(pyrrolidin-2-yl)acetic acid | 6.9 mmoles, 1.002 g | OC(C(=O)O)C1NCCC1 | C6H11NO3
reactant | sodium hydroxide | 550 mg, 2 equivalents | [OH-].[Na+]
reactant | benzyloxycarbonyl chloride | 1.18 ml, 1.2 equivalents | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | 10 ml | O | H2O
product | α-hydroxy-α-(1-benzyloxycarbonylpyrrolidin-2-yl)acetic acid | 1.288 g, 70.3% yield | OC(C(=O)O)C1N(CCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO5
